US06316637B1
To a solution of 5-nitrobenzimidazole (2.3 g, 14 mmol) was added 14 ml of n-PrMgBr solution (42 mmol) and reaction mixture was stirred for 2 h at −15° C. The reaction was quenched by adding a solution of tetrachloro-1,4-benzoquinone (4 g, 16 mmol) in 10 ml of THF. The reaction mixture was concentrated in vacuo to provide an oil, which was subjected to column chromatographic separation (EtOAc, neat) to provide 1.4 g (7.2 mmol, 52%) of 4-n-propyl-5-nitrobenzimidazole, which was converted to the corresponding amine (1.2 g, >95%) by hydrogenation(H2, Pd/C).

reactant | 5-nitrobenzimidazole | 14 mmol, 2.3 g | [N+](=O)([O-])C1=CC2=C(N=CN2)C=C1 | C7H5N3O2
reactant | n-PrMgBr | 42 mmol, 14 ml | C(CC)[Mg]Br
reactant | tetrachloro-1,4-benzoquinone | 16 mmol, 4 g | ClC1=C(C(C(=C(C1=O)Cl)Cl)=O)Cl | C6Cl4O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-n-propyl-5-nitrobenzimidazole | 7.2 mmol, 1.4 g, 52% | C(CC)C1=C(C=CC=2N=CNC21)[N+](=O)[O-] | C10H11N3O2
